US04013769
A solution of 4-(4-aminobutyl)imidazole (from the dihydrobromide (3.6 g) and 1-nitro-2,2-bis-methylthioethylene (2.0 g)) in acetonitrile (50 ml) was set aside at room temperature for 3 days. The product was chromatographed on a column of silica gel with elution by ethyl acetate, to give 1-nitro-2-methylthio-2-[4-(4-imidazolyl)butylamino]ethylene.

reactant | 4-(4-aminobutyl)imidazole | NCCCCC=1N=CNC1 | C7H13N3
reactant | 1-nitro-2,2-bis-methylthioethylene | 2.0 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-nitro-2-methylthio-2-[4-(4-imidazolyl)butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC=1N=CNC1)SC | C10H16N4O2S
